US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 70 mg (0.55 mmol) of 4-chloro-aniline. After purification by chromatography on silica (eluent dichloromethane/methanol 96/4) then trituration in diethyl ether, 15 mg (7%) of 8-(4-chlorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 4-chloro-aniline | 0.55 mmol, 70 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 8-(4-chlorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 15 mg, 7% | ClC1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C17H12ClN3O3S.C3H6O2/c18-10-1-3-11(4-2-10)21-25(23,24)12-5-6-15-14(9-12)13-7-8-19-16(13)17(22)20-15;1-2-3(4)5/h1-9,19,21H,(H,20,22);2H2,1H3,(H,4,5)/p-1
